US04072498
Following the procedure of Example 68, but substituting α-methyl-3-phenylpyrazole-1-acetic acid for α,4-dimethyl-3-phenylpyrazole-1-acetic acid, and diethylamine for aqueous ammonia there was obtained N,N-diethyl-α-methyl-3-phenylpyrazole-1-acetamide having a boiling point of 178°/0.2 mm.

reactant | α,4-dimethyl-3-phenylpyrazole-1-acetic acid | CC(C(=O)O)N1N=C(C(=C1)C)C1=CC=CC=C1 | C13H14N2O2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | ammonia | N | H3N
product | N,N-diethyl-α-methyl-3-phenylpyrazole-1-acetamide | C(C)N(C(C(N1N=C(C=C1)C1=CC=CC=C1)C)=O)CC | C16H21N3O
